US07125896B2
c) 2-Bromo-5-(morpholin-4-ylmethyl)phenol
3-(Morpholin-4-ylmethyl)phenol (9.65 g) in glacial acetic acid (60 ml) was treated over 2 h with bromine (2.88 ml) in acetic acid (8 ml), evaporated to near dryness, water (100 ml) added and basified with 0.880 ammonia, extracted with ethyl acetate, washed with water, brine, dried (MgSO4) and evaporated to dryness to give an oil, which was purified by column chromatography eluting with 1:1 ether/isohexane to give the desired product as an oil (4.75 g).

reactant | 3-(Morpholin-4-ylmethyl)phenol | 9.65 g | N1(CCOCC1)CC=1C=C(C=CC1)O | C11H15NO2
reactant | bromine | 2.88 ml | BrBr | Br2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-5-(morpholin-4-ylmethyl)phenol | 4.75 g | BrC1=C(C=C(C=C1)CN1CCOCC1)O | C11H14BrNO2
